US08895545B2
(S)-7-bromo-3-methyl-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepine
To a solution of LAH (2.5 mL, 2.52 mmol) was added a solution of (S)-7-bromo-3-methyl-4,5-dihydro-1H-pyrido[2,3-e][1,4]diazepin-2(3H)-one (375 mg, 1.26 mmol) in THF (10 mL) at 0° C. The reaction was warmed to room temperature and stirred over night. Once the reaction was complete, it was cooled to 0° C. and carefully quenched with water (10 mL), and extracted with ethyl acetate (4×15 mL), dried over sodium sulfate and concentrated. Preparative HPLC was used to purify the title compound as a white solid (166 mg, 55%): 1H NMR (400 MHz, CDCl3) δ8.10 (d, J=2.4 Hz, 1H), 7.75 (d, J=2.4 Hz, 1H), 4.36 (2s, 2H), 4.21 (d, J=14.3 Hz, 1H), 6.33-3.61 (m, 2H), 3.26-3.13 (m, 1H), 1.36 (d, J=6.4 Hz, 3H).

reactant | LAH | 2.52 mmol, 2.5 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (S)-7-bromo-3-methyl-4,5-dihydro-1H-pyrido[2,3-e][1,4]diazepin-2(3H)-one | 1.26 mmol, 375 mg | BrC1=CC2=C(NC([C@@H](NC2)C)=O)N=C1 | C9H10BrN3O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (S)-7-bromo-3-methyl-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepine | BrC1=CC2=C(NC[C@@H](NC2)C)N=C1 | C9H12BrN3
